US07547691B2
(B). Preparation of [5-bromo-4-(7-methoxy-benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methyl-piperazin-1-yl)-propyl]-amine tri-hydrochloride
Using the method of [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride, the title compound is prepared from 5-bromo-2-chloro-4-(7-methoxy-benzo[b]thiophen-2-yl)-pyrimidine and 1-(3-aminopropyl)-4-methylpiperazine and isolated as a yellow solid. ES+(m/z) 476 (79Br) and 478 (81Cl) [M+H].

reactant | [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride | Cl.Cl.Cl.S1C2=C(C=C1C1=NC(=NC=C1)NCCCN1CCN(CC1)C)C=CC=C2
reactant | 5-bromo-2-chloro-4-(7-methoxy-benzo[b]thiophen-2-yl)-pyrimidine | BrC=1C(=NC(=NC1)Cl)C1=CC2=C(S1)C(=CC=C2)OC | C13H8BrClN2OS
reactant | 1-(3-aminopropyl)-4-methylpiperazine | NCCCN1CCN(CC1)C | C8H19N3
product | [5-bromo-4-(7-methoxy-benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methyl-piperazin-1-yl)-propyl]-amine tri-hydrochloride | Cl.Cl.Cl.BrC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C(=CC=C2)OC | InChI=1S/C21H26BrN5OS.3ClH/c1-26-9-11-27(12-10-26)8-4-7-23-21-24-14-16(22)19(25-21)18-13-15-5-3-6-17(28-2)20(15)29-18;;;/h3,5-6,13-14H,4,7-12H2,1-2H3,(H,23,24,25);3*1H
